US06686352B2
a) 5,7-Dihydro-2-[(4-methoxyphenyl)Methyl]-9,10-dimethyl-6H-pyrimido[5,4-d]benzazepine-6-one
Analogous to Scheme 1,from 4-[(dimethylamino)methylene]-3,4-dihydro-7,8-dimethyl-1H-benzazepine-2,5-dione and 2-(4-methoxyphenyl)-acetamidine hydrochloride. Yield: 79%.

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-7,8-dimethyl-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=C(C(=C2)C)C)=O | C15H18N2O2
reactant | 2-(4-methoxyphenyl)-acetamidine hydrochloride | Cl.COC1=CC=C(C=C1)CC(=N)N
product | 5,7-Dihydro-2-[(4-methoxyphenyl)Methyl]-9,10-dimethyl-6H-pyrimido[5,4-d]benzazepine-6-one | Yield: 79% | COC1=CC=C(C=C1)CC=1N=CC=2CC(NC3=C(C2N1)C=C(C(=C3)C)C)=O | C22H21N3O2
